Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain and diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old female with a history of GERD and 
prior C.diff infecion ___ years ago who presents with right lower 
quadrant abdominal pain.
.
She reports that the pain started when she awoke this morning. 
It is localized to the mid abdomen with radiation to the RLQ. 
She had some associated nausea without vomiting. The abdominal 
pain very similar to the pain with her previous C.diff colitis. 
She presented to her ___ clinic, where there was concern for 
appendicitis. She was also given Acetaminophen 975 mg PO.
.
After arriving in the ED, she began to have diarrhea, about ___ 
episodes. The pain was briefly relieved with defecation. She was 
incontinent of stool at times. There was no bright red blood per 
rectum or melena. She has felt slightly feverish, but did not 
check her temperature. Her appetite has been poor today. She 
denies any vaginal bleeding or discharge.
.
Prior to this morning, she was feeling at her baseline without 
any symptoms. She denies any recent antibiotics. Last week, she 
was on a cruise to ___. She did not have any diarrhea or GI 
symptoms on the trip. She did not drink any unbottled water or 
local food.
.
Initial vitals in ED triage were T 99.7, HR 110, BP 145/84, RR 
16, and SpO2 98% on RA. Exam was notable to RLQ tenderness. 
Pelvic exam showed no CMT or adnexal tenderness. Her CBC was 
notable for WBC 17.6 with N 86.4%. Her chemistry panel showed Cr 
0.7, K 3.4, bicarb 21, and anion gap 14. LFTs were unremarkable 
except for Lipase 61. UCG was negative and UA appeared 
contaminated with WBC 6 and few bacteria, but Epi 18. CT 
abd/pelvis showed several loops of small bowel in the right 
lower quadrant and pelvis with wall edema, minimal surrounding 
fat stranding, and trace free fluid. The appendix was minimally 
hyperemic but only 5-6 mm in diameter, and unlikely to represent 
acute appendicitis.
.
She was given NS ___ ml IV. Stool samples were sent for C.diff 
and bacterial culture. Antibiotics were held pending culture 
results. She received Morphine x3 and Dilaudid 0.5 mg IV x2. She 
continued to have abdominal pain and was admitted to medicine 
for pain control and further workup of her enteritis.
.
Vitals prior to floor transfer were T 99.2, HR 89, BP 119/74, RR 
14, and SPO2 99% on RA. On reaching the floor, she reported 
continued abdominal pain in the periumbilical area with 
radiation to the RLQ. She reported baseline loose stool, but 
that the current diarrhea is abnormal for her.
.
REVIEW OF SYSTEMS:
(+) Per HPI. Mild sore throat and hoarse voice, which she thinks 
is from not drinking anything in the ED. Some slight chills and 
mild fatigue. Recent sunburn while on cruise.
(-) No fevers. No weight loss. No headache, rhinorrhea, or nasal 
congestion. No vertigo, presyncope, syncope, vision changes, 
hearing changes, focal weakness, or paresthesias. No chest pain, 
pressure, palpitations, SOB, cough, or hemoptysis. No dysphagia 
or odynophagia. No melena or BRBPR. No hematuria, dysuria, 
frequency, urgency, incontinence, or discharge. No back, neck, 
joint, or muscle pain. No rashes or concerning skin lesions. No 
easy bleeding or bruising. No depression or anxiety. Review of 
systems was otherwise negative.
 
Past Medical History:
# Asthma -- mild intermittent, rare Albuterol use
# Chronic Sinusitis -- improved after ENT surgery ___ years ago
# GERD -- high dose Omeprazole
# C.diff Colitis (___)
# Migraines -- few per year
# Overweight
 
Social History:
___
Family History:
No famil history of inflammatory bowel disease or GI malignancy.
# Mother: Healthy
# Father: Died at age ___ from asthma exacerbation
# Siblings: Brother who is well
 
Physical Exam:
ADMISSION:
VS: T 98.7, BP 132/81, HR 98, RR 16, SpO2 97% on RA,
Wt 153 lbs, Ht 62 in
Gen: Young female in NAD. Oriented x3. Pleasant, bright affect.
HEENT: Sclera anicteric. PERRL, EOMI. MMM, OP benign.
Neck: JVP not elevated. No concerning cervical lymphadenopathy.
CV: RRR with normal S1, S2. No M/R/G.
Chest: Respiration unlabored, no accessory muscle use. CTAB 
without crackles, wheezes or rhonchi.
Abd: Active bowel sounds. Soft, ND. No organomegaly or masses. 
Tender to palpation in RLQ and periumbilical area. Some rebound 
tenderness, minimal voluntary guarding.
Ext: WWP. Digital cap refill <2 sec. No C/C/E. Distal pulses 
intact radial 2+, DP 2+, ___ 2+.
Skin: No rashes or lesions noted in area of discomfort.
Neuro: CN II-XII grossly intact. Moving all four limbs. Normal 
speech.

DISCHARGE:
VS: 97.9 115/60 88 18 99%RA
Gen: Young female in NAD. Oriented x3. Pleasant, bright affect.
HEENT: Sclera anicteric. MM moist, OP benign.
Neck: JVP not elevated. No concerning cervical lymphadenopathy.
CV: RRR with normal S1, S2. No M/R/G.
Chest: Respiration unlabored, no accessory muscle use. CTAB 
without crackles, wheezes, or rhonchi.
Abd: Active bowel sounds. Soft, ND. No organomegaly or masses. 
Tender to palpation in RLQ and periumbilical area but improved 
from yesterday. no rebound or guarding. psoas, obturatory, and 
___ signs negative
Ext: WWP. Digital cap refill <2 sec. No C/C/E. Distal pulses 
intact radial 2+, DP 2+, ___ 2+.
Skin: No rashes or lesions noted in area of discomfort.
Neuro: CN II-XII grossly intact. Moving all four limbs. Normal 
speech.
 
Pertinent Results:
ADMISSION;

___ 06:10PM BLOOD WBC-17.6*# RBC-4.55# Hgb-14.0 Hct-42.2 
MCV-93 MCH-30.9 MCHC-33.3 RDW-12.7 Plt ___
___ 06:10PM BLOOD Neuts-86.4* Lymphs-8.4* Monos-4.2 Eos-0.5 
Baso-0.5
___ 06:10PM BLOOD Plt ___
___ 08:10AM BLOOD ___ PTT-27.2 ___
___ 06:10PM BLOOD Glucose-88 UreaN-16 Creat-0.7 Na-139 
K-3.4 Cl-104 HCO3-21* AnGap-17
___ 06:10PM BLOOD ALT-19 AST-21 AlkPhos-60 TotBili-0.4
___ 06:10PM BLOOD Albumin-4.6 Calcium-9.5 Phos-2.9 Mg-1.9

OTHER PERTINENT:

___ 08:10AM BLOOD WBC-7.3# RBC-4.04* Hgb-12.4 Hct-38.1 
MCV-94 MCH-30.8 MCHC-32.6 RDW-13.0 Plt ___
___ 08:10AM BLOOD Glucose-90 UreaN-14 Creat-0.6 Na-141 
K-4.1 Cl-111* HCO3-20* AnGap-14
___ 08:10AM BLOOD Calcium-8.6 Phos-2.4* Mg-1.8
___ 05:04PM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:04PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-MOD
___ 05:04PM URINE RBC-1 WBC-6* Bacteri-FEW Yeast-NONE 
Epi-18

MICRO:

___ 5:04 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

     FECAL CULTURE - R/O YERSINIA (Final ___:    NO 
YERSINIA FOUND. 

DISCHARGE:

___ 07:59AM BLOOD WBC-8.7 RBC-3.89* Hgb-12.1 Hct-36.4 
MCV-94 MCH-31.1 MCHC-33.3 RDW-12.9 Plt ___
___ 07:59AM BLOOD Glucose-93 UreaN-5* Creat-0.7 Na-138 
K-4.2 Cl-108 HCO3-22 AnGap-12
___ 07:59AM BLOOD Calcium-8.9 Phos-2.7 Mg-2.0

IMAGING:

___ CT ABD/PELVIS:

IMPRESSION:
1.  Enteritis involving several loops of small bowel located in 
the right
lower quadrant of the abdomen and within the pelvis.  
Differential diagnosis
includes infectious, inflammatory, and ischemic etiology.
2.  The appendix is 5-6 mm in diameter, and given the diffuse 
inflammatory
findings, appendicitis is not likely the cause of the patient's 
symptoms.

___ CXR:
FINDINGS:  The lung volumes are normal.  No pleural effusions.  
No parenchymal
abnormalities.  Normal size of the cardiac silhouette.
 
Brief Hospital Course:
The patient is a ___ year old female with a history of GERD and 
prior C.diff infecion ___ years ago who presents with right lower 
quadrant abdominal pain and watery diarrhea.

ACTIVE ISSUES:

# Enteritis/Abdominal Pain: Most likely represents a viral 
enteritis given her associated URI symptoms of voice hoarseness 
and sinus congestion, though her recent cruise to ___ raises 
traveler's diarrhea as also possible but unlikely due to late 
presentation. Appendicitis was considered very unlikely based on 
imaging and prominence of diarrhea. Fortunately C-diff PCR is 
negative. Campylobacter and otther stool studies also negative. 
IBD very unlikely given the acute presentation and lack of alarm 
or systemic symptoms. She receivedI IV fluids, bismuth, and an 
empiric 3-day course of po ciprofloxacin. Her pain was managed 
with tylenol, opioids, and dicyclomine for cramping. She was 
tolerating a light diet prior to time of discharge.

# Leukocytosis: Resolved after IV fluids overnight after 
admission. She had elevated WBC 17.6 with N 86.4% on admission. 
Most likely this is multifactorial from enteritis along with 
hypovolemia and hemoconcentration. Resolved with fluids alone 
without any initial empiric antibiotic coverage.

CHRONIC ISSUES:

# GERD: She takes Omeprazole 40 mg PO BID for GERD symptoms. 
Given her Cdiff history, tapering her PPI as an outpatient would 
be reasonable to consider. Continued Omeprazole 40 mg PO BID for 
now

# Anxiety: Continued home fluoxetine.

TRANSITIONAL ISSUES:
- consider tapering omeprazole as outpatient  if able given 
history of c-diiff
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO BID 
2. Albuterol Inhaler ___ PUFF IH Q4-6H:PRN SOB 
3. Fluoxetine 20 mg PO DAILY 
4. Lorazepam 0.5-1 mg PO BID:PRN anxiety 
5. acetaminophn-isometh-dichloral *NF* 325-65-100 mg Oral 
Q1H:PRN migraine 
up to maximum of 5 tabs in 12 hours 
6. Microgestin Fe ___ (28) *NF* 
(norethindrone-e.estradiol-iron) 1.5-30 mg-mcg Oral DAILY 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
2. Microgestin Fe ___ (28) *NF* 
(norethindrone-e.estradiol-iron) 1.5-30 mg-mcg Oral DAILY 
3. Omeprazole 40 mg PO BID 
4. Acetaminophen 1000 mg PO Q8H 
5. DiCYCLOmine 20 mg PO QID 
RX *dicyclomine 20 mg 1 tablet(s) by mouth four times a day Disp 
#*10 Tablet Refills:*0
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not take if drowsy or driving.  Take only if pain persists 
despite taking acetaminophen. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0
7. Albuterol Inhaler ___ PUFF IH Q4-6H:PRN SOB 
8. Lorazepam 0.5-1 mg PO BID:PRN anxiety 
9. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet,disintegrating(s) by mouth every 
eight (8) hours Disp #*10 Tablet Refills:*0
10. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Doses 
take through end of ___ 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*3 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastroenteritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at the ___ 
___.  You were admitted with diarrhea and 
abdominal pain.  We treated you with antibiotics, fluids and 
pain medications, and your symptoms improved.  You were able to 
eat and drink by the time of discharge. 

You will need to continue treatment with antibiotics for a 
further 1 day.  We also gave you medications to contorl pain and 
cramping.  Please followup with your primary care practitioner.  
 
 
Followup Instructions:
___